US04532242
A mixture of 40 g (0.014 mole) of 2-benzylthio-4-chloro-6-n-propylpyrimidine (from Part B) and 15 g (0.3 mole) of hydrazine hydrate in 300 ml of ethanol was heated at reflux for 2 hours, cooled and evaporated. Water was added to the residue. The white solid was collected by filtration and dried to provide 2-benzylthio-4-hydrazino-6-n-propylpyrimidine. The structural assignment was confirmed by infrared and nuclear magnetic resonance spectral analyses.

reactant | 2-benzylthio-4-chloro-6-n-propylpyrimidine | 0.014 mole, 40 g | C(C1=CC=CC=C1)SC1=NC(=CC(=N1)Cl)CCC | C14H15ClN2S
reactant | hydrazine hydrate | 0.3 mole, 15 g | O.NN
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-benzylthio-4-hydrazino-6-n-propylpyrimidine | C(C1=CC=CC=C1)SC1=NC(=CC(=N1)NN)CCC | C14H18N4S
